US05654307
A solution of 5-amino-2-chloropyridine-4-carboxylic acid (8.1 g, 4.7 mmol) in formamide (100 mL) is stirred at 140° C. for 12 h. Dilution of the cooled mixture with water gives a precipitate of 6-chloro-3H-pyrido[3,4-d]pyrimidin-4-one (7.3 g, 86% yield). 1H NMR (DMSO) δ 12.73 (1H, m), 8.90 (1H, d, J=0.7 Hz), 8.23 (1H, s), 7.97 (1H, d, J=0.7 Hz).

reactant | 5-amino-2-chloropyridine-4-carboxylic acid | 4.7 mmol, 8.1 g | NC=1C(=CC(=NC1)Cl)C(=O)O | C6H5ClN2O2
reactant | water | O | H2O
reactant | formamide | 100 mL | C(=O)N | CH3NO
product | 6-chloro-3H-pyrido[3,4-d]pyrimidin-4-one | 7.3 g, 86% yield | ClC1=CC2=C(N=CNC2=O)C=N1 | C7H4ClN3O
